US09085555B2
C. (3-Acetyl-5-methoxy-indol-1-yl)-acetic acid
To (3-acetyl-5-methoxy-indol-1-yl)-acetic acid tert-butyl ester (520 mg, 1.71 mmol) in CH2Cl2 (15 mL) was added TFA (1.32 mL, 17.1 mmol). The reaction mixture was stirred at RT overnight. Volatiles were evaporated, then the crude material was taken up in 5 mL of 1M aqueous NaOH solution and washed with CH2Cl2 which was discarded. The water phase was acidified to pH=1 by adding a 6M aqueous HCl solution, and then was extracted twice with AcOEt. The combined organic phases were dried (Phase separator) and evaporated to give the title compound. MS (LC/MS): 248.1 [M+H]+, 246.1 [M−H]−; tR (HPLC conditions c): 3.47 min.

reactant | (3-acetyl-5-methoxy-indol-1-yl)-acetic acid tert-butyl ester | 1.71 mmol, 520 mg | C(C)(C)(C)OC(CN1C=C(C2=CC(=CC=C12)OC)C(C)=O)=O | C17H21NO4
reactant | TFA | 17.1 mmol, 1.32 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (3-Acetyl-5-methoxy-indol-1-yl)-acetic acid | C(C)(=O)C1=CN(C2=CC=C(C=C12)OC)CC(=O)O | C13H13NO4
